data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1289,1410,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([CH3:15])[NH+:16]=[C:17]([C:18]#[N:19])[C:20]([CH3:21])=[O:22].[F:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[F:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH:6]3[CH:7]([CH:8]1[O:9]2)[C:17]([C:18]#[N:19])([C:20]([CH3:21])=[O:22])[NH:16][C:14]3([C:12]([NH:11][CH3:10])=[O:13])[CH3:15],water,298.15,17.7702638167998,-24.72912905273553
1317,1446,[CH3:13][CH:14]=[NH+:15][C-:16]([C:17]([CH3:18])=[O:19])[C:20]([CH3:21])=[O:22].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:16]([C:17]([CH3:18])=[O:19])([C:20]([CH3:21])=[O:22])[NH:15][CH:14]3[CH3:13],water,298.15,20.2994631781743,-27.56319664806129
1127,1225,[Br:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2.[CH3:10][N-:11][O+:12]=[CH:13][C:14](=[O:15])[NH:16][CH3:17]>>[Br:1][C:2]12[C:3]([Br:4])([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[N:11]([CH3:10])[O:12][CH:13]2[C:14](=[O:15])[NH:16][CH3:17],water,298.15,15.73720230423272,-47.78548091083778
2024,2247,[CH3:1][O:2][C:3]([O:4][CH3:5])=[C:6]([Br:7])[Br:8].[CH3:9][O:10][C:11](=[O:12])[C:13](=[NH+:14][CH-:15][C:16]#[N:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]([Br:7])([Br:8])[CH:15]([C:16]#[N:17])[NH:14][C:13]1([C:11]([O:10][CH3:9])=[O:12])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,28.793456342240468,-7.533192735141772
4746,5421,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([NH+:15]=[C:16]([C:17]#[N:18])[C:19]([CH3:20])=[O:21])[C:22](=[O:23])[NH:24][CH3:25].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:16]([C:17]#[N:18])([C:19]([CH3:20])=[O:21])[NH:15][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:22](=[O:23])[NH:24][CH3:25],water,298.15,29.67873333195625,-10.581044825763705
1790,1981,[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]#[C:7][C:8]([Cl:9])([Cl:10])[CH2:11][CH2:12][CH2:13][CH2:14]1.[N:15]#[C:16][C-:17]([C:18]#[N:19])[N+:20]#[C:21][c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]2=[C:7]([C:8]([Cl:9])([Cl:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[C:17]([C:16]#[N:15])([C:18]#[N:19])[N:20]=[C:21]2[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,18.84233534236488,-47.25570735114943
2241,2486,[CH3:11][C:12](=[O:13])[C:14]([C:15]([CH3:16])=[O:17])=[N+:18]([CH3:19])[C-:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[N:1]#[C:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[N:1]#[C:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[C:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)([c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[N:18]([CH3:19])[C:14]3([C:12]([CH3:11])=[O:13])[C:15]([CH3:16])=[O:17],water,298.15,45.0992072417609,-16.5908541389714
4185,4788,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12](=[O:13])[C:14](=[O+:15][C-:16]([CH3:17])[C:18]#[N:19])[C:20]([CH3:21])=[O:22]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:14]([C:12]([CH3:11])=[O:13])([C:20]([CH3:21])=[O:22])[O:15][C:16]2([CH3:17])[C:18]#[N:19],water,298.15,5.07036617322728,-45.308469006785934
3353,3806,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[C:9]#[N+:10][C-:11]([C:12]([CH3:13])=[O:14])[C:15]([CH3:16])=[O:17]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:11]([C:12]([CH3:13])=[O:14])([C:15]([CH3:16])=[O:17])[N:10]=[C:9]1[C:7]([NH:6][CH3:5])=[O:8],water,298.15,16.435435095722372,-34.83091728467748
865,936,[CH3:12][N-:13][NH+:14]=[C:15]([C:16](=[O:17])[NH:18][CH3:19])[C:20](=[O:21])[O:22][CH3:23].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([F:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([F:6])([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[N:13]([CH3:12])[NH:14][C:15]2([C:16](=[O:17])[NH:18][CH3:19])[C:20](=[O:21])[O:22][CH3:23],water,298.15,22.762340059452896,-19.53860389331021
3929,4494,[CH3:10][N-:11][O+:12]=[C:13]([C:14]#[N:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:13]([C:14]#[N:15])([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[O:12][N:11]1[CH3:10],water,298.15,17.242427944997306,-38.442392776646415
49,58,[CH3:1][C:2]#[C:3][F:4].[CH3:5][O:6][C:7](=[O:8])[C-:9]([C:10]#[N:11])[O+:12]=[C:13]([CH3:14])[CH3:15]>>[CH3:1][C:2]1=[C:3]([F:4])[C:13]([CH3:14])([CH3:15])[O:12][C:9]1([C:7]([O:6][CH3:5])=[O:8])[C:10]#[N:11],water,298.15,16.013833656619067,-70.15512588843889
251,274,[CH3:11][C:12](=[O:13])[C:14](=[NH+:15][NH-:16])[C:17]([CH3:18])=[O:19].[CH3:1][C:2]1=[C:3]([C:4]#[N:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][C:2]12[C:3]([C:4]#[N:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[NH:16][NH:15][C:14]2([C:12]([CH3:11])=[O:13])[C:17]([CH3:18])=[O:19],water,298.15,20.907410506004656,-12.576816306959628
